US04870074
Preparation of 2-amino-4-dimethylamino-5-nitrobenzoic acid
A mixture of 2-acetylamino-4-dimethylamino-5-nitrobenzoic acid (6.5 g), concentrated hydrochloric acid (20 ml), and water (80 ml) is stirred at 100° C. for 30 minutes. After cooling, solid sodium hydroxide (5 g) and then 10% aqueous sodium hydroxide solution are added until the mixture becomes a clear solution. The resulting solution is adjusted to the pH of about 4 with acetic acid. The precipitate is collected and recrystallized from methanol to give the title compound (4.8 g), mp 240°-250° C.

reactant | 2-acetylamino-4-dimethylamino-5-nitrobenzoic acid | 6.5 g | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1)N(C)C)[N+](=O)[O-] | C11H13N3O5
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | water | 80 ml | O | H2O
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-4-dimethylamino-5-nitrobenzoic acid | 4.8 g | NC1=C(C(=O)O)C=C(C(=C1)N(C)C)[N+](=O)[O-] | C9H11N3O4
